US06506901B2
(2S)-1-(3-Bromo-9H-carbazol-4-yloxy)-3-{[1-(4-methoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol
Prepared from 3-bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.083 g, 0.26 mmol) and (4-aminomethyl-1-piperidinyl) 4-methoxybenzenesulfonamide (0.142 g, 0.5 mmol) according to procedure used for Example 2 to give 0.079 g of the title compound as a white solid.

reactant | 3-bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.26 mmol, 0.083 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1OC[C@H]1OC1 | C15H12BrNO2
reactant | (4-aminomethyl-1-piperidinyl) 4-methoxybenzenesulfonamide | 0.5 mmol, 0.142 g | NCC1CCN(CC1)C1=C(C=CC(=C1)OC)S(=O)(=O)N | C13H21N3O3S
product | (2S)-1-(3-Bromo-9H-carbazol-4-yloxy)-3-{[1-(4-methoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol | 0.079 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1OC[C@H](CNCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)O | C28H32BrN3O5S
